US07250418B2
Preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-pyridin-4-ylpyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine but substituting 4-bromo pyridine provided the title compound as an amporphous solid: 1H NMR (400 MHz, CDCl3) δ) 8.23, 7.50, 7.35, 7.28, 6.50, 5.30, 4.90, 4.29, 3.95, 3.76, 3.65–3.58, 3.42, 2.73, 2.49, 1.35–1.27, 1.16; IR (diffuse reflectance) 2971 (s), 2497 (w), 2388 (w), 2350 (w), 2338 (w), 2328 (w), 1596 (s), 1569, 1550 (s), 1516, 1508, 1499 (s), 1467 (s), 1397 (s), 1393 (s) cm−1 HRMS (ESI) calcd for C25H29N5OCl2+H1 486.1827. found 486.1810.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C23H27Cl2N5OS
reactant | 4-bromo pyridine | BrC1=CC=NC=C1 | C5H4BrN
product | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-pyridin-4-ylpyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C1=CC=NC=C1)CC | C25H29Cl2N5O
